US08058299B2
4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyrimidin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester from above was suspended in methylene chloride and methanol. To this mixture was added hydrogen chloride in ether (4N, 3 mL). The mixture was stirred at room temperature overnight. The solvents were evaporated and the residue was dried in vacuum. The resulting solid was triturated with dry ether and then filtered to give 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (2-piperazin-1-yl-pyrimidin-5-yl)-amide hydrochloride salt. LC-MS calcd for C19H17F3N6O2 (m/e) 418.39, obsd 419.0 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyrimidin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C24H25F3N6O4
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | ether | 4N, 3 mL | CCOCC | C4H10O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (2-piperazin-1-yl-pyrimidin-5-yl)-amide hydrochloride salt | Cl.N1(CCNCC1)C1=NC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | InChI=1S/C19H17F3N6O2.ClH/c20-19(21,22)15-14(27-17(30-15)12-4-2-1-3-5-12)16(29)26-13-10-24-18(25-11-13)28-8-6-23-7-9-28;/h1-5,10-11,23H,6-9H2,(H,26,29);1H
